** sch_path: /home/designer/shared/Training/GROTDC/GROTDC_marzo/GRO-TDC/Buffers.sch
.subckt Buffers VDD IN VSS OUT
*.PININFO IN:I VDD:B VSS:B OUT:O
x1[1] VDD net1 IN VSS INV_D1
x1[0] VDD net1 IN VSS INV_D1
x2[1] VDD OUT net1 VSS INV_D2
x2[0] VDD OUT net1 VSS INV_D2
x3 VDD net1 OUT VSS INV05
.ends

* expanding   symbol:  /home/designer/shared/Training/GROTDC/GROTDC_marzo/GRO-TDC/std_cells/INV_D1.sym # of pins=4
** sym_path: /home/designer/shared/Training/GROTDC/GROTDC_marzo/GRO-TDC/std_cells/INV_D1.sym
** sch_path: /home/designer/shared/Training/GROTDC/GROTDC_marzo/GRO-TDC/std_cells/INV_D1.sch
.subckt INV_D1 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/GROTDC_marzo/GRO-TDC/std_cells/INV_D2.sym # of pins=4
** sym_path: /home/designer/shared/Training/GROTDC/GROTDC_marzo/GRO-TDC/std_cells/INV_D2.sym
** sch_path: /home/designer/shared/Training/GROTDC/GROTDC_marzo/GRO-TDC/std_cells/INV_D2.sch
.subckt INV_D2 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=1 m=1
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/GROTDC_marzo/GRO-TDC/std_cells/INV05.sym # of pins=4
** sym_path: /home/designer/shared/Training/GROTDC/GROTDC_marzo/GRO-TDC/std_cells/INV05.sym
** sch_path: /home/designer/shared/Training/GROTDC/GROTDC_marzo/GRO-TDC/std_cells/INV05.sch
.subckt INV05 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M1 net1 VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M3 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M2 VOUT VIN net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends

