** sch_path: /home/designer/shared/Training/GROTDC/Counters__FA_regs_7bits.sch
.subckt Counters_FA_regs_7bits RESET D[7] D[6] D[5] D[4] D[3] D[2] D[1] D[0] VDD CLK VSS S[7] S[6] S[5] S[4] S[3] S[2] S[1] S[0]
*.PININFO VDD:B VSS:B RESET:I S[7:0]:I D[7:0]:O CLK:I
x8 VDD CLK RESET VSS D[0] net1 S[0] FF_D
x1 VDD CLK RESET VSS D[1] net2 S[1] FF_D
x2 VDD CLK RESET VSS D[2] net3 S[2] FF_D
x3 VDD CLK RESET VSS D[3] net4 S[3] FF_D
x4 VDD CLK RESET VSS D[4] net5 S[4] FF_D
x5 VDD CLK RESET VSS D[5] net6 S[5] FF_D
x6 VDD CLK RESET VSS D[6] net7 S[6] FF_D
x7 VDD CLK RESET VSS D[7] net8 S[7] FF_D
.ends

* expanding   symbol:  /home/designer/shared/Training/GROTDC/FF_D/FF_D.sym # of pins=7
** sym_path: /home/designer/shared/Training/GROTDC/FF_D/FF_D.sym
** sch_path: /home/designer/shared/Training/GROTDC/FF_D/FF_D.sch
.subckt FF_D VDD VCLK VRESET VSS VQ VQN VD
*.PININFO VDD:B VSS:B VCLK:I VD:I VRESET:I VQ:O VQN:O
x1 VDD net4 VD VSS INV_D1
x2 VDD net2 net1 VSS INV_D1
x3 VCLK VSS net7 net2 VDD VCLK_N TG_2C
x4 VCLK_N VSS net7 net4 VDD VCLK TG_2C
x5 VCLK VSS net6 net5 VDD VCLK_N TG_2C
x6 VDD net3 VQ VSS INV_D1
x7 VCLK_N VSS net6 net3 VDD VCLK TG_2C
x8 VDD net7 net1 VRESET_N VSS NAND_D2
x9 VDD net6 VQ VRESET_N VSS NAND_D3
x10 VDD VCLK_N VCLK VSS INV_D1
x11 VDD net5 net1 VSS INV_D3
x12 VDD VRESET_N VRESET VSS INV_D1
x13 VDD VQN VQ VSS INV_D1
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/FF_D/INV_D1.sym # of pins=4
** sym_path: /home/designer/shared/Training/GROTDC/FF_D/INV_D1.sym
** sch_path: /home/designer/shared/Training/GROTDC/FF_D/INV_D1.sch
.subckt INV_D1 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/TG_2C/TG_2C.sym # of pins=6
** sym_path: /home/designer/shared/Training/GROTDC/TG_2C/TG_2C.sym
** sch_path: /home/designer/shared/Training/GROTDC/TG_2C/TG_2C.sch
.subckt TG_2C VCTRLN VSS VOUT VIN VDD VCTRLP
*.PININFO VCTRLN:B VCTRLP:B VOUT:O VIN:I VSS:B VDD:B
M1 VOUT VCTRLN VIN VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M2 VOUT VCTRLP VIN VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=2
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/FF_D/NAND_D2.sym # of pins=5
** sym_path: /home/designer/shared/Training/GROTDC/FF_D/NAND_D2.sym
** sch_path: /home/designer/shared/Training/GROTDC/FF_D/NAND_D2.sch
.subckt NAND_D2 VDD VA VOUT VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
M1 net1 VB VSS VSS sg13_lv_nmos w=0.9u l=0.13u ng=1 m=1
M2 VOUT VA net1 VSS sg13_lv_nmos w=0.3u l=0.13u ng=1 m=1
M3 VOUT VB VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
M4 VOUT VA VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/FF_D/NAND_D3.sym # of pins=5
** sym_path: /home/designer/shared/Training/GROTDC/FF_D/NAND_D3.sym
** sch_path: /home/designer/shared/Training/GROTDC/FF_D/NAND_D3.sch
.subckt NAND_D3 VDD VA VOUT VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
M1 net1 VB VSS VSS sg13_lv_nmos w=1.35u l=0.13u ng=1 m=1
M2 VOUT VA net1 VSS sg13_lv_nmos w=0.45u l=0.13u ng=1 m=1
M3 VOUT VB VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=1 m=1
M4 VOUT VA VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/FF_D/INV_D3.sym # of pins=4
** sym_path: /home/designer/shared/Training/GROTDC/FF_D/INV_D3.sym
** sch_path: /home/designer/shared/Training/GROTDC/FF_D/INV_D3.sch
.subckt INV_D3 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=3
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=6
.ends

